US05264587
1,2,3,3a,8,8a-Hexahydro-α-oxo-1,3a,8-trimethyl-5-pyrrolo[2,3-b]indole acetic acid, n-butyl ester
To a nitrogen purged 100 ml 3 neck round bottom flask was added anhydrous tetrahydrofuran (THF) (7.0 ml). Sec-butyllithium (1.3M in cyclohexane, 8.9 ml) was then added, the solution cooled to -78° C. and treated with TMEDA (1.6 ml; 11.0 mmol). A solution of 5-bromo-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indole (2.50 g) in anhydrous THF (6.0 ml) was added via canula and the mixture stirred at -78° C. for 11/2 hours and -20° C. for 1 hour. The resulting solution was then added via canula to a solution of freshly distilled dibutyl oxalate (5.5 ml) in THF (9.0 ml) at -78° C. and maintained at this temperature with stirring for 1 hour. After allowing the mixture to slowly come to room temperature, saturated ammonium chloride solution (10 ml) was added and the solvent removed under reduced pressure. The product was purified by preparative HPLC (silica gel, eluted with 10% methanol in ethyl acetate). The appropriate fractions were combined and evaporated to give 0.51 g of an oil, which upon trituration with hexane afforded 1,2,3,3a,8,8a-hexahydro-α-oxo-1,3a,8-trimethyl-5-pyrrolo[2,3]-indole acetic acid, n-butyl ester, as a solid, m.p. 56°-61° C.

reactant | TMEDA | 11.0 mmol, 1.6 ml | CN(C)CCN(C)C | C6H16N2
reactant | 5-bromo-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indole | 2.50 g | BrC=1C=C2C3(C(N(C2=CC1)C)N(CC3)C)C | C13H17BrN2
reactant | dibutyl oxalate | 5.5 ml | C(C(=O)OCCCC)(=O)OCCCC | C10H18O4
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | THF | 6.0 ml | O1CCCC1 | C4H8O
solvent | THF | 9.0 ml | O1CCCC1 | C4H8O
product | 1,2,3,3a,8,8a-Hexahydro-α-oxo-1,3a,8-trimethyl-5-pyrrolo[2,3-b]indole acetic acid, n-butyl ester | 0.51 g | O=C(C(=O)OCCCC)C=1C=C2C3(C(N(C2=CC1)C)N(CC3)C)C | C19H26N2O3
